US04319033
The method of Example 4 was used, using 2-hydroxycyclohexanone (10 g), ethane dithiol (8.3 g) and p-toluenesulphonic acid to give 5,6,7,8-tetrahydro-1,4-benzodithian as a brownish oil (not distilled), yield 75.1%. NMR (CDCl3) 3.14 δ, 1.5-2.3 δ (two overlapping complex multiplets).

reactant | 2-hydroxycyclohexanone | 10 g | OC1C(CCCC1)=O | C6H10O2
reactant | ethane dithiol | 8.3 g | C(C)(S)S | C2H6S2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5,6,7,8-tetrahydro-1,4-benzodithian | yield 75.1% | S1CCSC2=C1CCCC2 | C8H12S2
